US08471005B2
[7-(2-Methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-[1-(2-morpholin-4-yl-ethyl)-1H-indazol-5-yl]-amine
Following the procedure of Example 1315, 7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ol (365 mg, 1.51 mmol)was coupled in parallel fashion to 1-(2-morpholin-4-yl-ethyl)-1H-indazol-5-ylamine (74 mg, 0.30 mmol), 1-(2-morpholin-4-yl-ethyl)-1H-indazol-6-ylamine (74 mg, 0.30 mmol), 1-(2-morpholin-4-yl-ethyl)-1H-benzimidazol-5-ylamine (74 mg, 0.30 mmol), 3-(2-morpholin-4-yl-ethyl)-3H-benzimidazol-5-ylamine (74 mg, 0.30 mmol), 2-(2-morpholin-4-yl-ethyl)-2H-indazol-6-ylamine (74 mg, 0.30 mmol), 2-(2-morpholin-4-yl-ethyl)-2H-indazol-5-ylamine (74 g, 30 mmol) and 2-tert-butyl-3H-benzimidazol-5-ylamine (57 mg, 0.30 mmol). Products were purified by RP pHPLC as described in Example 1291c. Yield of TFA salt: 103 mg (82%); LC/MS: 470 (M+H); HPLC: 97% pure, RT=2.51 min; 1H NMR: (DMSO, δ) 9.86 (s, 1H), 9.50 (s, 1H), 8.97 (s, 1H), 8.36 (s, 1H), 7.83 (d, J=7.5, 1H), 7.62 (m, 2H), 7.54 (t, J=7.7, 1H), 7.32 (d, J=8.3, 1H), 7.18 (t, J=7.5, 1H), 6.95 (d, J=4.8, 1H), 6.93 (d, J=4.8, 1H), 4.79 (t, J=6.3, 2H), 3.95 (m, 2H), 3.81 (s, 3H), 3.71 (m, 6H), 3.16 (m, 2H).

reactant | 7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ol | 1.51 mmol, 365 mg | COC1=C(C=CC=C1)C1=CC=C2C=NC(=NN21)O | C13H11N3O2
reactant | 1-(2-morpholin-4-yl-ethyl)-1H-indazol-5-ylamine | 0.30 mmol, 74 mg | N1(CCOCC1)CCN1N=CC2=CC(=CC=C12)N | C13H18N4O
reactant | 1-(2-morpholin-4-yl-ethyl)-1H-indazol-6-ylamine | 0.30 mmol, 74 mg | N1(CCOCC1)CCN1N=CC2=CC=C(C=C12)N | C13H18N4O
reactant | 1-(2-morpholin-4-yl-ethyl)-1H-benzimidazol-5-ylamine | 0.30 mmol, 74 mg | N1(CCOCC1)CCN1C=NC2=C1C=CC(=C2)N | C13H18N4O
reactant | 3-(2-morpholin-4-yl-ethyl)-3H-benzimidazol-5-ylamine | 0.30 mmol, 74 mg | N1(CCOCC1)CCN1C=NC2=C1C=C(C=C2)N | C13H18N4O
reactant | 2-(2-morpholin-4-yl-ethyl)-2H-indazol-6-ylamine | 0.30 mmol, 74 mg | N1(CCOCC1)CCN1N=C2C=C(C=CC2=C1)N | C13H18N4O
reactant | 2-(2-morpholin-4-yl-ethyl)-2H-indazol-5-ylamine | 30 mmol, 74 g | N1(CCOCC1)CCN1N=C2C=CC(=CC2=C1)N | C13H18N4O
reactant | 2-tert-butyl-3H-benzimidazol-5-ylamine | 0.30 mmol, 57 mg | C(C)(C)(C)C=1NC2=C(N1)C=CC(=C2)N | C11H15N3
product | [7-(2-Methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-[1-(2-morpholin-4-yl-ethyl)-1H-indazol-5-yl]-amine | COC1=C(C=CC=C1)C1=CC=C2C=NC(=NN21)NC=2C=C1C=NN(C1=CC2)CCN2CCOCC2 | C26H27N7O2
